US08017611B2
Sodium (R)-2-((S)-1,2-dihydroxyethyl)-4-hydroxy-5-oxo-2,5-dihydrofuran-3-olate (211 mg) and tris((1-benzyl-1H-1,2,3-triazol-4-yl)methyl)amine (90 mg) were added to a stirred solution of 3-(1,3-benzoxazol-2-yl)-5-ethynyl-pyridin-2-amine (125 mg) in THF (15 ml) at room temperature. To the reaction mixture was then added water (5 ml), tert-butyl 4-azidopiperidine-1-carboxylate (180 mg) in THF (1 ml) and tetrakis(acetonitrile)copper(I) hexafluorophosphate (9.9 mg). The resulting solution was stirred overnight: a precipitate appeared. The precipitate was filtered, washed successively with water, THF, diethyl ether and petroleum ether, and dried under vacuum at 50° C. to afford tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]triazol-1-yl]piperidine-1-carboxylate (218 mg) as a solid; NMR Spectrum: (DMSOd6) 1.44 (s, 9H), 1.82-1.96 (m, 2H), 2.07-2.21 (m, 2H), 3.01 (bs, 2H), 3.99-4.20 (m, 2H), 4.72-4.85 (m, 1H), 7.40-7.53 (m, 2H), 7.80-8.04 (m, 4H), 8.72 (s, 2H), 8.78 (s, 1H); Mass spectrum: M+H+: 462

reactant | Sodium (R)-2-((S)-1,2-dihydroxyethyl)-4-hydroxy-5-oxo-2,5-dihydrofuran-3-olate | 211 mg | O[C@@H](CO)[C@H]1OC(C(=C1[O-])O)=O.[Na+]
reactant | tris((1-benzyl-1H-1,2,3-triazol-4-yl)methyl)amine | 90 mg | C(C1=CC=CC=C1)N1N=NC(=C1)CN(CC=1N=NN(C1)CC1=CC=CC=C1)CC=1N=NN(C1)CC1=CC=CC=C1 | C30H30N10
reactant | 3-(1,3-benzoxazol-2-yl)-5-ethynyl-pyridin-2-amine | 125 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C#C)N | C14H9N3O
reactant | tert-butyl 4-azidopiperidine-1-carboxylate | 180 mg | N(=[N+]=[N-])C1CCN(CC1)C(=O)OC(C)(C)C | C10H18N4O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | tetrakis(acetonitrile)copper(I) hexafluorophosphate | 9.9 mg | CC#N.CC#N.CC#N.CC#N.F[P-](F)(F)(F)(F)F.[Cu+]
solvent | water | 5 ml | O | H2O
product | tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]triazol-1-yl]piperidine-1-carboxylate | 218 mg | NC1=C(C=C(C=N1)C=1N=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C=1OC2=C(N1)C=CC=C2 | C24H27N7O3
